US09428483B2
(2) (1S,2S,3S,5R,6S)-2-Amino-3-fluoro-6-((1-(isobutyloxy)ethoxy)carbonyl)bicyclo[3.1.0]hexane-2-carboxylic acid hydrochloride (A-8)
(1S,2S,3S,5R,6S)-3′-Allyl 6-(1-(isobutyryloxy)ethyl) 3-fluoro-5′-oxospiro[bicyclo[3.1.0]hexan-2,4′-oxazolidine]-3′,6-dicarboxylate (A-8-1, 403 mg) was treated in the same manner as in Example A-1 (4) to give a pale yellow oil (278 mg) containing (1S,2S,3S,5R,6S)-2-amino-3-fluoro-6-((1-(isobutyloxy)ethoxy)carbonyl)bicyclo[3.1.0]hexane-2-carboxylic acid. To the obtained oil, ethyl acetate (3 mL) was added, the mixture was stirred and then a 4 mol/L hydrogen chloride-ethyl acetate solution (3 mL) was added while cooling on ice. The mixture was stirred at room temperature for 30 minutes, then concentrated under reduced pressure and dried to give the title compound (A-8, 200 mg) as a pale yellow solid.

reactant | (1S,2S,3S,5R,6S)-2-amino-3-fluoro-6-((1-(isobutyloxy)ethoxy)carbonyl)bicyclo[3.1.0]hexane-2-carboxylic acid | N[C@@]1([C@@H]2[C@H]([C@@H]2C[C@@H]1F)C(=O)OC(C)OCC(C)C)C(=O)O | C14H22FNO5
reactant | hydrogen chloride-ethyl acetate | 4 mol/L, 3 mL | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
product | (1S,2S,3S,5R,6S)-2-Amino-3-fluoro-6-((1-(isobutyloxy)ethoxy)carbonyl)bicyclo[3.1.0]hexane-2-carboxylic acid hydrochloride | 200 mg | Cl.N[C@@]1([C@@H]2[C@H]([C@@H]2C[C@@H]1F)C(=O)OC(C)OCC(C)C)C(=O)O | InChI=1S/C14H22FNO5.ClH/c1-6(2)5-20-7(3)21-12(17)10-8-4-9(15)14(16,11(8)10)13(18)19;/h6-11H,4-5,16H2,1-3H3,(H,18,19);1H/t7?,8-,9-,10-,11-,14-;/m0./s1
